US04868331
5-Amino-1-hydroxy-5,6,7,8-tetrahydro-naphthalene hydrobromide
0.15 mol of 5-amino-1-methoxy-5,6,7,8-tetrahydronaphthalene hydrochloride is heated at a bath temperature of 125° C. in 75 ml of aqueous 48% strength HBr for 3 hours. The mixture is evaporated, the residue is dissolved in a little ethanol and the products are precipitated as the hydrobromides by addition of ether. Yield: 80% of theory; melting point: 152° C.

reactant | 5-amino-1-methoxy-5,6,7,8-tetrahydronaphthalene hydrochloride | 0.15 mol | Cl.NC1C=2C=CC=C(C2CCC1)OC
reactant | HBr | Br | BrH
product | 5-Amino-1-hydroxy-5,6,7,8-tetrahydro-naphthalene hydrobromide | Yield: 80% | Br.NC1C=2C=CC=C(C2CCC1)O | InChI=1S/C10H13NO.BrH/c11-9-5-1-4-8-7(9)3-2-6-10(8)12;/h2-3,6,9,12H,1,4-5,11H2;1H
